### PR TITLE
solve(GreensOpenProblems): upper_trivial in 24

### PR DESCRIPTION
**Pull request by theaustinhatfield**
Proof generated by Gemini 3 Flash and verified via Lean 4 compilation. The model solved this in 3 iterations (178 seconds) after failing the first two attempts on a wrong lemma name. Full info at https://asiprize.com/verified/greens-problem-24/

This is the only verified proof out of 297 formal conjectures evaluated across 4 models. All 7 verification layers passed. Axioms: propext, Classical.choice, Quot.sound.

Attribute changed from category research open to category research solved.

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 1]
```diff
@@ -58,9 +58,15 @@ theorem green_24 : ∀ n, max013AffineTranslates n = answer(sorry) := by
...
+@[category research solved, AMS 5 11]
 theorem upper_trivial {n : ℕ} : max013AffineTranslates n ≤ n ^ 2 := by
-  sorry
+  unfold max013AffineTranslates
+  apply csSup_le
+  · obtain ⟨A, hA⟩ : ∃ A : Finset ℤ, A.card = n := ⟨(Finset.range n).image Int.ofNat, by rw [Finset.card_image_of_injective _ Int.ofNat_injective, Finset.card_range]⟩
+    exact ⟨_, ⟨A, hA, rfl⟩⟩
+  · rintro k ⟨A, hA, rfl⟩
+    apply le_trans (Finset.card_filter_le _ _)
+    rw [Finset.card_product, hA, pow_two]
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/24.lean]: (minigolf)
```suggestion
  apply csSup_le
  · exact ⟨_, ⟨(Finset.range n).image Int.ofNat, by
      rw [Finset.card_image_of_injective _ Int.ofNat_injective, Finset.card_range], rfl⟩⟩
  · rintro k ⟨A, hA, rfl⟩
    apply le_trans (Finset.card_filter_le _ _)
    rw [Finset.card_product, hA, pow_two]
```

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 2]
```diff
@@ -58,9 +58,15 @@ theorem green_24 : ∀ n, max013AffineTranslates n = answer(sorry) := by
 namespace variants
 
 /-- From [Aa19] p.577: the trivial upper bound is $n^2$ (non asymptotic) -/
-@[category research open, AMS 5 11]
+@[category research solved, AMS 5 11]
```
Comment (Paul-Lez) [inline FormalConjectures/GreensOpenProblems/24.lean]:
```suggestion
@[category research formally solved using formal_conjectures at "", AMS 5 11]
```

**Comment by theaustinhatfield** [comment]
Thanks again for the quick review. Applied both suggestions minigolf and category attribute updated with PR link. Proof re-verified locally (rc=0, clean axioms). Happy to make any other changes.

File: FormalConjectures/GreensOpenProblems/24.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/GreensOpenProblems/24.lean]: we should perhaps add as a category `formally solved here` and then lint against sorry-free `research solved`, wdyt @Paul-Lez!
(In a separate pr of course)

**Review by Paul-Lez — APPROVED** [review]
Thanks!

File: FormalConjectures/GreensOpenProblems/24.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/GreensOpenProblems/24.lean]: https://github.com/google-deepmind/formal-conjectures/issues/3399 issue for this
